US07541359B2
5-Chloro-3-(4-fluoro-phenyl)-[1,2,4]thiadiazole
To a suspension of 4-fluorobenzamidine hydrochloride (0.385 g) in DCM (5 mL) was added perchloromethyl mercaptan (0.219 mL). The resulting mixture was cooled to 0° C., treated with 6 N NaOH (2 mL) and stirred for 30 min. The resulting mixture was diluted with water (10 mL) and extracted with DCM (20 mL). The organic layer was dried (MgSO4) and concentrated. Chromatography of the residue (0-20% EtOAc-hexanes) gave the title compound as a yellow-orange solid (0.43 g).

reactant | 4-fluorobenzamidine hydrochloride | 0.385 g | Cl.FC1=CC=C(C(=N)N)C=C1
reactant | perchloromethyl mercaptan | 0.219 mL | ClC(Cl)(Cl)S | CHCl3S
reactant | NaOH | 6 N, 2 mL | [OH-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 5-Chloro-3-(4-fluoro-phenyl)-[1,2,4]thiadiazole | 0.43 g | ClC1=NC(=NS1)C1=CC=C(C=C1)F | C8H4ClFN2S
